US05030724
2-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)oxy]-2-methylpropanoic acid, 2-[(1,1-dimethylethoxy)carbonyl]-1-methylhydrazide
A solution of 2-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)oxy]-2-methylpropanoyl chloride (5.3 g, 22 mmole) in 40 ml of dry tetrahydrofuran was treated with triethylamine (4.10 ml, 30 mmole) and 4-(N,N-dimethylamino)pyridine (5 mg). A solution of 1-[(1,1-dimethylethoxy)carbonyl]-2-methylhydrazine (2.90 g, 20 mmole) in 20 ml of tetrahydrofuran was added dropwise at 0° C. and the resulting mixture was stirred at 20° C. overnight. The solvent was evaporated and the solid residue was partitioned between ethyl acetate and water. The organic phase was washed successively with 0.5N hydrochloric acid, 5% sodium bicarbonate, and water. Drying over magnesium sulfate and evaporation gave 6.6 g of the title compound as a colorless solid, m.p. 140°-145° C.

reactant | 2-[(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)oxy]-2-methylpropanoyl chloride | 22 mmole, 5.3 g | O=C1N(C(C2=CC=CC=C12)=O)OC(C(=O)Cl)(C)C | C12H10ClNO4
reactant | triethylamine | 30 mmole, 4.10 ml | C(C)N(CC)CC | C6H15N
reactant | 1-[(1,1-dimethylethoxy)carbonyl]-2-methylhydrazine | 20 mmole, 2.90 g | CC(C)(OC(=O)NNC)C | C6H14N2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | 4-(N,N-dimethylamino)pyridine | 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)oxy]-2-methylpropanoic acid, 2-[(1,1-dimethylethoxy)carbonyl]-1-methylhydrazide | 6.6 g | CC(C)(OC(=O)NN(C(C(C)(C)ON1C(C2=CC=CC=C2C1=O)=O)=O)C)C | C18H23N3O6
